US05354913
To a solution of methylmagnesium bromide in tetrahydrofuran (1 M, 54.3 ml) was added anhydrous tetrahydrofuran (90 ml). To the solution was added dropwise a solution of methyl (R)-7-(4-fluorophenyl)-7-(3-formyl-6-methoxy-2,4,5-trimethylphenyl)heptanoate (4.5 g, 10.9 mmol) in tetrahydrofuran (20 ml) at -78° C., followed by stirring for 30 minutes at the same temperature. To the reaction mixture, an aqueous solution of potassium hydrogensulfate, followed by subjected to extraction with ethyl acetate. The organic layer was washed with water, an aqueous solution of sodium hydrogencarbonate and water, in the order mentioned, and dried over magnesiumsulfate. The organic layer was distilled off under reduced pressure, and the residue was subjected to a silica gel column chromatography to give methyl (R)-7-(4-fluorophenyl)-7-[3-(1-hydroxyethyl)-6-methoxy-2,4,5-trimethylphenyl]heptanoate (4.4 g). Physico-chemical properties and spectral data of this compound are shown in [Table 5].

reactant | methylmagnesium bromide | C[Mg]Br
reactant | methyl (R)-7-(4-fluorophenyl)-7-(3-formyl-6-methoxy-2,4,5-trimethylphenyl)heptanoate | 10.9 mmol, 4.5 g | FC1=CC=C(C=C1)[C@@H](CCCCCC(=O)OC)C1=C(C(=C(C(=C1OC)C)C)C=O)C | C25H31FO4
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 1 M, 54.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | methyl (R)-7-(4-fluorophenyl)-7-[3-(1-hydroxyethyl)-6-methoxy-2,4,5-trimethylphenyl]heptanoate | 4.4 g | FC1=CC=C(C=C1)[C@@H](CCCCCC(=O)OC)C1=C(C(=C(C(=C1OC)C)C)C(C)O)C | C26H35FO4
